US06291455B1
A mixture of 7-(3-benzyloxypropoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride (180 mg, 0.4 mmol) and 5% palladium-on-charcoal catalyst (50 mg) in methanol (5 m), trichloromethane (5 ml) a nd DMF (1 ml) was stirred under hydrogen at 1 atmosphere pressure for 2 hours. The catalyst was removed by filtration through diatomaceous earth and the solvent removed by evaporation. The residue was partitioned between ethyl acetate and aqueous sodium hydrogen carbonate solution, the organic layer separated and dried (MgSO4) and the solvent removed by evaporation. The residue was recrystallised from ethyl acetate/hexane to give 4-(4-chloro-2-fluoroanilino)-7-(3-hydroxypropoxy)-6-methoxyquinazoline (48 mg, 33%).

reactant | 7-(3-benzyloxypropoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride | 0.4 mmol, 180 mg | Cl.C(C1=CC=CC=C1)OCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | palladium-on-charcoal | 50 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | trichloromethane | 5 ml | ClC(Cl)Cl | CHCl3
product | 4-(4-chloro-2-fluoroanilino)-7-(3-hydroxypropoxy)-6-methoxyquinazoline | 48 mg, 33% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCO)C=C1)F | C18H17ClFN3O3
